US05488131
[1S-[1R*(S*), 2R*]]-N-(2-hydroxy-1-methyl-2-phenylethyl)-N,2-dimethyl benzenepropionamide
A dry 2 L 3-necked round-bottomed flask was equipped with a mechanical stirrer, and charged with lithium chloride (25.0 g, 596 mmol, 6.0 equiv), diisopropylamine (31.3 mL, 224 mmol, 2.25 equiv), and tetrahydrofuran (120 mL). The suspension was cooled to -78° C., and n-butyllithium (2.43M in hexanes, 85.1 mL, 207 mmol, 2.08 equiv) was added via cannula. After a brief warming to 0° C., it was recooled to -78° C. [S-[R*,R*]]-N-(2-hydroxy-1-methyl-2-phenylethyl)-N-methyl propionamide (22.0 g, 99.41 mmol, 1.0 equiv) was added as a 0° C. solution in tetrahydrofuran (300 mL). The resulting solution was stirred at -78° C. for 1 hour, warmed to 0° C. for 15 minutes, warmed to 23° C. for 5 minutes, and cooled to 0° C. Benzyl bromide (17.74 mL, 149 mmol, 1.5 equiv) was added, and the reaction was stirred at 0° C. The reaction was quenched after 15 minutes with saturated ammonium chloride, and the amide was extracted from saturated ammonium chloride (800 mL) with ethyl acetate (500 mL, 150 mL, 150 mL). The combined organic extracts were dried over sodium sulfate, and after removal of the solvent under reduced pressure, a yellow solid was obtained. Recrystallization from toluene (100 mL) yielded the desired product as a white powder (27.77 g, 90% yield). GC analysis of the TMS ether indicated a diastereomeric purity of the amide of greater than 99% de: mp 136°-137° C.; 1H NMR (300 MHz, C6D6) δ6.9-7.4 (m, 10 H), 4.45 (m, 1H), 4.25 (br, 1H), 3.96 (m, 1H), 3.80 (m, 1H), 3.36 (dd, 2H, J=13.1 Hz, 6.92 Hz), 3.01 (m, 1H), 2.75 (m, 1H), 2.70 (s, 3H), 2.45-2.59 (m, 3H), 2.08 (s, 3H), 1.05 (d, 3H, J=7.0 Hz), 1.02 (d, 3H, J=6.5 Hz), 0.83 (d, 3H, J=7.0 Hz), 0.59 (d, 3H, J=6.8 Hz); 13C NMR (75.5 MHz, CDCl3) δ178.2, 177.2, 142.3, 141.1, 140.5, 139.9, 129.2, 128.9, 128.6, 128.31, 128.26, 127.5, 126.8, 126.4, 126.2, 76.4, 75.2, 58.0, 40.3, 40.0, 38.9, 38.1, 32.3, 27.1, 17.7, 17.4, 15.5, 14.3; FTIR (neat film) cm-1 3384 (br, m), 3027 (m), 2973 (m), 2932 (m), 1617 (s), 1493 (m), 1453 (m), 1409 (m), 1080 (m), 1050 (m), 701 (s); HRMS (FAB) Calcd for C20H26NO2 (MH+): 312.1965. Found: 312.1972; Anal. Calcd for C20H25NO2: C, 77.14, H, 8.09, N, 4.50. Found: C, 76.87, H, 8.06, N, 4.50.

reactant | lithium chloride | 596 mmol, 25.0 g, 6.0 equiv | [Cl-].[Li+]
reactant | diisopropylamine | 224 mmol, 31.3 mL, 2.25 equiv | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 207 mmol, 2.43M, 85.1 mL, 2.08 equiv | C(CCC)[Li]
reactant | N-(2-hydroxy-1-methyl-2-phenylethyl)-N-methyl propionamide | 99.41 mmol, 22.0 g, 1.0 equiv | OC(C(C)N(C(CC)=O)C)C1=CC=CC=C1 | C13H19NO2
reactant | Benzyl bromide | 149 mmol, 17.74 mL, 1.5 equiv | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | N-(2-hydroxy-1-methyl-2-phenylethyl)-N,2-dimethyl benzenepropionamide | 27.77 g, 90% yield | OC(C(C)N(C(CCC1=C(C=CC=C1)C)=O)C)C1=CC=CC=C1 | C20H25NO2
